US03997545
To a solution of 3.3 parts of diethyl (3-methoxycarbonylthienyl)aminomethylenemalonate in a mixture of 20 parts by volume of chloroform and 4 parts by volume of pyridine, 0.6 part by volume of bromine is added dropwise. The solution is further stirred at room temperature for 15 minutes, after which the reaction mixture is washed with dilute hydrochloric acid, an aqueous sodium hydrogen carbonate solution and water, followed by drying over Na2SO4. The solvent is distilled off to give diethyl (5-bromo-3-methoxycarbonylthienyl)aminomethylenemalonate. Recrystallization from ethanol gives light-yellowish needles melting at 129°-130° C.

reactant | diethyl (3-methoxycarbonylthienyl)aminomethylenemalonate | COC(=O)C1=C(SC=C1)NC=C(C(=O)OCC)C(=O)OCC | C14H17NO6S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | bromine | BrBr | Br2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | diethyl (5-bromo-3-methoxycarbonylthienyl)aminomethylenemalonate | BrC1=CC(=C(S1)NC=C(C(=O)OCC)C(=O)OCC)C(=O)OC | C14H16BrNO6S
